simulator lang=spectre
global 0

ahdl_include "../submission/cdr_top.va"
ahdl_include "../submission/bbpd.va"
ahdl_include "../submission/loop_filter_code.va"
ahdl_include "../submission/phase_rotator.va"

Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.1n 0 130n 0]
Venable (enable 0) vsource type=pwl wave=[0 0 4n 0 4.1n 0.9 130n 0.9]
Vref_clk (ref_clk 0) vsource type=pulse val0=0 val1=0.9 delay=5.95n period=12n width=6n rise=50p fall=50p
Vdata_edge (data_edge 0) vsource type=pwl wave=[0 0 18.630n 0 18.680n 0.9 19.430n 0.9 19.480n 0 30.670n 0 30.720n 0.9 31.470n 0.9 31.520n 0 42.710n 0 42.760n 0.9 43.510n 0.9 43.560n 0 54.750n 0 54.800n 0.9 55.550n 0.9 55.600n 0 66.275n 0 66.325n 0.9 67.075n 0.9 67.125n 0 78.315n 0 78.365n 0.9 79.115n 0.9 79.165n 0 130n 0]

XDUT (data_edge ref_clk rst enable recovered_clk early late phase_4 phase_3 phase_2 phase_1 phase_0 lock) cdr_top unit_phase_delay=40p

tran tran stop=130n maxstep=50p
save data_edge ref_clk rst enable recovered_clk early late phase_4 phase_3 phase_2 phase_1 phase_0 lock
